US04464387
1-phenyl-3-ethyl hydantoin
A mixture of N-phenyl glycine (30.2 grams, 0.2 moles), ethylisocyanate (17.8 grams, 0.25 moles) and 30 ml of toluene was refluxed for 9 hours and allowed to stand overnight at room temperature (21° C.). The suspended product was collected by filtration and washed with toluene. After drying (21° C.) it was crystallized from ethanol to produce 17 grams (42% yield) of the above-identified product having a melting point of about 142° C.

reactant | N-phenyl glycine | 0.2 moles, 30.2 grams | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | ethylisocyanate | 0.25 moles, 17.8 grams | C(C)N=C=O | C3H5NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-3-ethyl hydantoin | 17 grams, 42% yield | C1(=CC=CC=C1)N1C(=O)N(C(=O)C1)CC | C11H12N2O2
